US07291643B2
N-[2-cyano-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide
This compound was prepared according to the procedure of Example 48 using methane-sulfonyl chloride (0.044 mL, 0.6 mmol) and 5-(4-amino-3-cyanophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.100 g, 0.45 mmol) to afford the title compound (0.100 g, 50%).

reactant | methane-sulfonyl chloride | 0.6 mmol, 0.044 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(4-amino-3-cyanophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.45 mmol, 0.100 g | NC1=C(C=C(C=C1)C1=CC=C(N1C)C#N)C#N | C13H10N4
product | N-[2-cyano-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide | 0.100 g, 50% | C(#N)C1=C(C=CC(=C1)C=1N(C(=CC1)C#N)C)NS(=O)(=O)C | C14H12N4O2S
